### PR TITLE
feat: prove the existence of an omega-regular language not accepted by any deterministic Buchi automaton

### PR DESCRIPTION
**Pull request by ctchou**
This patch exhibits an omega-regular language (that is, it is accepted by a finite-state nondeterministic Buchi automaton) that is not accepted by any deterministic Buchi automaton which is not even required to be finite-state.

Some code reorg in OmegaSequence is also done.

This PR now includes https://github.com/leanprover/cslib/pull/150 (which is closed) as well, whose main results are:

* The ω-language accepted by a deterministic Buchi automaton is the ω-limit of the language accepted by the same automaton.
* The ω-language accepted by a finite-state deterministic Buchi automaton is ω-regular.
* The ω-limit of a regular language is ω-regular.

### CODE REVIEW

File: Cslib/Computability/Automata/DABuchi.lean [hunk 1]
```diff
@@ -0,0 +1,30 @@
...
+
+open Acceptor ωAcceptor in
+/-- The ω-language accepted by a deterministic Buchi automaton is the ω-limit
+of the language accepted by the same automaton.
+-/
+@[scoped grind =]
+theorem buchi_eq_finAcc_omegaLim {da : DA State Symbol} {acc : Set State} :
+    language (Buchi.mk da acc) = (language (FinAcc.mk da acc))↗ω := by
+  ext xs ; constructor <;>
+  { intro h ; apply Frequently.mono h ; simp }
```
Comment (chenson2018) [inline Cslib/Computability/Automata/DABuchi.lean]:
```suggestion
  ext
  simp
```

File: Cslib/Computability/Automata/NA.lean [hunk 2]
```diff
@@ -40,6 +39,11 @@ namespace NA
 
 variable {State : Type _} {Symbol : Type _}
 
+/-- Infinite run. -/
+@[scoped grind =]
+def Run (na : NA State Symbol) (xs : ωSequence Symbol) (ss : ωSequence State) :=
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NA.lean:44]: Should this be lowercase to match`DA.run`?

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 3]
```diff
@@ -377,6 +382,10 @@ theorem kstar_hmul_omegaPow_eq_omegaPow [Inhabited α] (l : Language α) : l∗
     _ = (l∗)^ω := by rw [hmul_omegaPow_eq_omegaPow]
     _ = _ := by simp
 
+@[simp]
+theorem omegaLim_zero : (0 : Language α)↗ω = ⊥ := by
+  ext xs ; simp
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: Remove unused name
```suggestion
  ext; simp
```

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean [hunk 4]
```diff
@@ -0,0 +1,133 @@
+/-
```
Comment (chenson2018) [inline Cslib/Computability/Languages/ExampleEventuallyZero.lean:1]: Can you think of a better name for the file? Maybe just `EventuallyZero`? Even if you plan for more of these, I'd prefer each in a separate file with a descriptive name.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 5]
```diff
@@ -0,0 +1,133 @@
+/-
+Copyright (c) 2025 Ching-Tsun Chou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ching-Tsun Chou
+-/
+
+import Cslib.Computability.Automata.DA
+import Cslib.Computability.Automata.NA
+import Cslib.Foundations.Data.OmegaSequence.InfOcc
+import Mathlib.Tactic
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Everything else is imported transitively (found with [`#min_imports`](https://leanprover-community.github.io/mathlib4_docs/ImportGraph/Meta.html#%C2%ABcommand#min_imports%C2%BB))
```suggestion
import Cslib.Computability.Automata.NA
```

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean [hunk 6]
```diff
@@ -0,0 +1,133 @@
...
+
+section EventuallyZero
+
+/-- A sequence `xs` is in `eventually_zero` iff `xs k = 0` for all large `k`. -/
+@[scoped grind =]
+def eventually_zero : ωLanguage (Fin 2) :=
+  { xs : ωSequence (Fin 2) | ∀ᶠ k in atTop, xs k = 0 }
+
+/-- `eventually_zero` is accepted by a 2-state nondeterministic Buchi automaton. -/
+theorem eventually_zero_accepted_by_na_buchi :
```
Comment (chenson2018) [inline Cslib/Computability/Languages/ExampleEventuallyZero.lean:36]: Instead of writing this as an existential that immediately uses a `let` I might have split this into a definition and just the proof that `language a = eventually_zero`.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 7]
```diff
@@ -0,0 +1,133 @@
...
+  · intro h
+    obtain ⟨m, h_m⟩ := eventually_atTop.mp h
+    let ss : ωSequence (Fin 2) := fun k ↦ if k ≤ m then (0 : Fin 2) else 1
+    refine ⟨ss, ?_, ?_⟩
+    · simp [a, ss, NA.Run]
+      grind
+    · apply Eventually.frequently
+      apply eventually_atTop.mpr
+      use (m + 1) ; intro k _
+      simp [a, ss, show m < k by omega]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]: A little bit of golfing:
```suggestion
    have := h_run.2 m
    induction k <;> grind [NA.Run]
  · intro h
    obtain ⟨m, h_m⟩ := eventually_atTop.mp h
    let ss : ωSequence (Fin 2) := fun k ↦ if k ≤ m then (0 : Fin 2) else 1
    refine ⟨ss, ?_, ?_⟩
    · grind [NA.Run]
    · apply Eventually.frequently
      apply eventually_atTop.mpr
      use (m + 1) 
      grind
```

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 8]
```diff
@@ -0,0 +1,133 @@
...
+
+private lemma extend_by_zero (u : List (Fin 2)) :
+    u ++ω const 0 ∈ eventually_zero := by
+  apply eventually_atTop.mpr
+  use u.length
+  intro k h_k
+  rw [get_append_right' h_k]
+  simp
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]:
```suggestion
  grind [get_append_right']
```

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 9]
```diff
@@ -0,0 +1,133 @@
...
+
+private lemma extend_by_one (u : List (Fin 2)) :
+    ∃ v, 1 ∈ v ∧ u ++ v ++ω const 0 ∈ eventually_zero := by
+  refine ⟨[1], ?_, ?_⟩
+  · simp
+  · apply extend_by_zero
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]:
```suggestion
  use [1]
  grind [extend_by_zero]
```

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 10]
```diff
@@ -0,0 +1,133 @@
...
+    (u : List (Fin 2)) : ∃ v, 1 ∈ v ∧ u ++ v ∈ l := by
+  obtain ⟨v, _, h_pfx⟩ := extend_by_one u
+  rw [← h] at h_pfx
+  obtain ⟨m, h_m, h_uv⟩ := frequently_atTop.mp h_pfx (u ++ v).length
+  use (v ++ω ωSequence.const 0).extract 0 (m - u.length)
+  rw [extract_append_zero_right (show v.length ≤ m - u.length by grind)]
+  constructor
+  · simp_all
+  · rw [extract_append_zero_right h_m] at h_uv
+    grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]:
```suggestion
  have := frequently_atTop.mp h_pfx (u ++ v).length
  grind [extract_append_zero_right]
```

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 11]
```diff
@@ -0,0 +1,133 @@
...
+  Classical.choose <| extend_by_hyp h (List.ofFn (fun k : Fin n ↦ oneSegs h k)).flatten
+
+private lemma oneSegs_lemma {l : Language (Fin 2)} (h : l↗ω = eventually_zero) (n : ℕ) :
+    1 ∈ oneSegs h n ∧ (List.ofFn (fun k : Fin (n + 1) ↦ oneSegs h k)).flatten ∈ l := by
+  let P u v := 1 ∈ v ∧ u ++ v ∈ l
+  have : P ((List.ofFn (fun k : Fin n ↦ oneSegs h k)).flatten) (oneSegs h n) := by
+    unfold oneSegs
+    exact Classical.choose_spec <| extend_by_hyp h (List.ofFn (fun k : Fin n ↦ oneSegs h k)).flatten
+  obtain ⟨h1, h2⟩ := this
+  refine ⟨h1, ?_⟩
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]:
```suggestion
  use h1
```

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 12]
```diff
@@ -0,0 +1,133 @@
...
+  have h_ev : ls.flatten ∈ eventually_zero := by
+    rw [← h, mem_omegaLim, frequently_iff_strictMono]
+    use (fun k ↦ ls.cumLen (k + 1))
+    constructor
+    · intro j k h_jk
+      have := cumLen_strictMono h_pos (show j + 1 < k + 1 by omega)
+      grind
+    · intro n
+      rw [extract_eq_take, ← flatten_take h_pos]
+      suffices _ : ls.take (n + 1) = List.ofFn (fun k : Fin (n + 1) ↦ oneSegs h k) by grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]:
```suggestion
      suffices _ : ls.take (n + 1) = List.ofFn (fun k : Fin (n + 1) ↦ oneSegs h k) by
        grind [extract_eq_take, flatten_take]
```

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean [hunk 13]
```diff
@@ -0,0 +1,133 @@
...
+    rw [← h, mem_omegaLim, frequently_iff_strictMono]
+    use (fun k ↦ ls.cumLen (k + 1))
+    constructor
+    · intro j k h_jk
+      have := cumLen_strictMono h_pos (show j + 1 < k + 1 by omega)
+      grind
+    · intro n
+      rw [extract_eq_take, ← flatten_take h_pos]
+      suffices _ : ls.take (n + 1) = List.ofFn (fun k : Fin (n + 1) ↦ oneSegs h k) by grind
+      simp [← extract_eq_take, extract_eq_ofFn, ls]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/ExampleEventuallyZero.lean:105]: No change required, but in case you were wondering, `grind [Fin.cast_eq_self, extract_eq_ofFn, =_ extract_eq_take]` works here too.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean [hunk 14]
```diff
@@ -0,0 +1,133 @@
...
+      simp [← extract_eq_take, extract_eq_ofFn, ls]
+  obtain ⟨m, _⟩ := eventually_atTop.mp h_ev
+  have h_inf : ∃ᶠ n in atTop, n ∈ range ls.cumLen := by
+    apply frequently_iff_strictMono.mpr
+    have := cumLen_strictMono h_pos
+    grind
+  obtain ⟨n, h_n, k, rfl⟩ := frequently_atTop.mp h_inf m
+  have h_k : 1 ∈ ls k := by grind
+  simp only [← extract_flatten h_pos k, List.mem_iff_getElem, length_extract] at h_k
+  grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguageExamples.lean]:
```suggestion
  grind [List.mem_iff_getElem, =_ extract_flatten]
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 15]
```diff
@@ -6,6 +6,10 @@ Authors: Ching-Tsun Chou
 
 import Cslib.Computability.Automata.DA
 import Cslib.Computability.Automata.NA
+import Cslib.Computability.Automata.DAToNA
+import Cslib.Computability.Automata.DABuchi
+import Cslib.Computability.Languages.RegularLanguage
+import Cslib.Computability.Languages.OmegaLanguageExamples
 import Mathlib.Tactic
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]:
```suggestion
import Cslib.Computability.Automata.DABuchi
import Cslib.Computability.Languages.OmegaLanguageExamples
import Cslib.Computability.Languages.RegularLanguage
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 16]
```diff
@@ -14,26 +18,47 @@ import Mathlib.Tactic
...
 
-/-- There is an ω-regular language which is not accepted by any deterministic Buchi automaton. -/
-proof_wanted IsRegular.not_det_buchi :
-  ∃ p : ωLanguage Symbol, p.IsRegular ∧
-    ¬ ∃ State : Type, ∃ _ : Finite State, ∃ da : DA.Buchi State Symbol, ωAcceptor.language da = p
+/-- The ω-language accepted by a finite-state deterministic Buchi automaton is ω-regular. -/
+theorem IsRegular.of_da_buchi {State : Type} [Finite State] (da : DA.Buchi State Symbol) :
+    (language da).IsRegular := by
+  use State, inferInstance, da.toNABuchi
+  simp
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Maybe clearer to write this out explicitly as a term since it's so close to this already?
```suggestion
    (language da).IsRegular := ⟨State, inferInstance, da.toNABuchi, DA.Buchi.toNABuchi_language_eq⟩
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 17]
```diff
@@ -14,26 +18,47 @@ import Mathlib.Tactic
...
+
+/-- There is an ω-regular language that is not accepted by any deterministic Buchi automaton,
+where the automaton is not even required to be finite-state. -/
+theorem IsRegular.not_da_buchi :
+  ∃ Symbol : Type, ∃ p : ωLanguage Symbol, p.IsRegular ∧
+    ¬ ∃ State : Type, ∃ da : DA.Buchi State Symbol, language da = p := by
+  refine ⟨Fin 2, Example.eventually_zero, ?_, ?_⟩
+  · obtain ⟨a, _⟩ := Example.eventually_zero_accepted_by_na_buchi
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: That you explicitly use the data from this in further proofs supports that it might be helpful to split `Example.eventually_zero_accepted_by_na_buchi` into data and proof.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 18]
```diff
@@ -14,26 +18,47 @@ import Mathlib.Tactic
...
+    use Fin 2, inferInstance, a
+  · rintro ⟨State, ⟨da, acc⟩, h⟩
+    simp [DA.buchi_eq_finAcc_omegaLim] at h
+    have := Example.eventually_zero_not_omegaLim
+    grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]:
```suggestion
    have := Example.eventually_zero_not_omegaLim
    grind [DA.buchi_eq_finAcc_omegaLim]
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 19]
```diff
@@ -14,26 +18,47 @@ import Mathlib.Tactic
...
+
+/-- The ω-limit of a regular language is ω-regular. -/
+theorem IsRegular.regular_omegaLim {l : Language Symbol}
+    (h : l.IsRegular) : (l↗ω).IsRegular := by
+  obtain ⟨State, _, ⟨da, acc⟩, rfl⟩ := Language.IsRegular.iff_cslib_dfa.mp h
+  rw [← DA.buchi_eq_finAcc_omegaLim]
+  apply IsRegular.of_da_buchi
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]:
```suggestion
  grind [IsRegular.of_da_buchi, =_ DA.buchi_eq_finAcc_omegaLim]
```

File: Cslib/Foundations/Data/OmegaSequence/InfOcc.lean [hunk 20]
```diff
@@ -0,0 +1,44 @@
...
+  constructor
+  · intro h
+    exact extraction_of_frequently_atTop h
+  · rintro ⟨f, h_mono, h_p⟩
+    rw [Nat.frequently_atTop_iff_infinite]
+    have h_range : range f ⊆ {n | p n} := by
+      rintro k ⟨m, rfl⟩
+      simp_all only [mem_setOf_eq]
+    apply Infinite.mono h_range
+    exact infinite_range_of_injective h_mono.injective
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/InfOcc.lean]:
```suggestion
    have h_range : range f ⊆ {n | p n} := by grind
    grind [Infinite.mono, infinite_range_of_injective, StrictMono.injective]
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Automata/DABuchi.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Automata/DABuchi.lean]: Fixed.  Just curious: how did you know a single `simp` would work?

File: Cslib/Computability/Automata/NA.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NA.lean:44]: Note that `NA.Run` returns a `Prop`, while `DA.run` returns an `ωSequence`.  The same case distinction is used in `NA.Tr` and `Da.tr` and similarly `NA.MTr` and `DA.mtr`.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Languages/ExampleEventuallyZero.lean:1]: I will rename it to ExampleEventuallyZero.lean.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Automata/DABuchi.lean (hunk 1 above)
Comment (chenson2018) [reply Cslib/Computability/Automata/DABuchi.lean]: Just my usual working backwards to simplify proofs. I think I tried something like `simp [Frequently.mono]` and then got a warning it wasn't needed.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.  Why does `grind [NA.Run]` needs `NA.Run` be given explicitly?  `NA.Run` is marked by `@[scoped grind =]`.

Comment (chenson2018) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Hmm I hadn't noticed that. It must be picking up a different pattern from `=` when passed explicitly here.

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Computability/Languages/ExampleEventuallyZero.lean:36]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 10 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 11 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 12 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean (hunk 13 above)
Comment (ctchou) [reply Cslib/Computability/Languages/ExampleEventuallyZero.lean:105]: Thanks!

File: Cslib/Computability/Languages/OmegaLanguageExamples.lean (hunk 14 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguageExamples.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 15 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 16 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 17 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 18 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 19 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/InfOcc.lean (hunk 20 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/InfOcc.lean]: Fixed.

File: Cslib/Computability/Languages/ExampleEventuallyZero.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Languages/ExampleEventuallyZero.lean:1]: Renaming done.

**Comment by ctchou** [comment]
Since Chris reviewed https://github.com/leanprover/cslib/pull/150 as part of this PR, I'll close https://github.com/leanprover/cslib/pull/150.

**Comment by ctchou** [comment]
Add a reference to the source of the `eventually_zero` example.  More references to the Wolfgang Thomas survey article will be made later.

**Comment by ctchou** [comment]
Merge in the latest `upstream/main` because the toolchain changed.

**Review by chenson2018 — APPROVED** [review]
